US08604039B2
9 Synthesis of 1-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-ylmethyl)-3-phenylurea, Example 237 (See Scheme 9)
100 mg C-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-yl)-methylamine trifluoroacetate, Diastereomer 2 (Example 226) (see scheme 3, 3.17.2) are placed in 2 ml dichloromethane and 30 μl phenylisocyanate are added. The reaction mixture is stirred for 4 hours at ambient temperature and then evaporated to dryness. The product is purified by preparative HPLC (method A). 64 mg of the product are obtained as a powder. Analytical HPLC-MS (method D): RT=1.33 min.

reactant | C-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-yl)-methylamine trifluoroacetate | 100 mg | FC(C(=O)O)(F)F.ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](CCC2)CN
reactant | phenylisocyanate | 30 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-((S)-1-{2-[4-(4-chloro-phenyl)-piperazin-1-yl]-5-oxo-6,7-dihydro-5H-5λ4-thieno[3,2-d]pyrimidin-4-yl}-pyrrolidin-2-ylmethyl)-3-phenylurea | 64 mg | ClC1=CC=C(C=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCS2=O)N2[C@@H](CCC2)CNC(=O)NC2=CC=CC=C2 | C28H32ClN7O2S
